US08278335B2
Step 2. Ethyl 5-[(tert-butoxycarbonyl)amino]-2-iodo-1,3-thiazole-4-carboxylate
To a solution of ethyl 5-[(tert-butoxycarbonyl)amino]-1,3-thiazole-4-carboxylate (10 g, 36.7 mmol) in DMF (122 ml) was added N-iodosuccinimide (20 g, 88.9 mmol). The mixture was stirred for 36 hrs at 60° C. One additional equivalent of N-iodosuccinimide (1.2 g) was added and the mixture was stirred at 60° C. for 18 hrs. The reaction was then cooled to room temperature and concentrated to one-third its volume in vacuo. The resulting mixture was partitioned between water and ethyl acetate. The aqueous layer was further extracted once with dichloromethane. The combined organics were dried over magnesium sulfate, filtered, and concentrated in vacuo, and purified via flash chromatography (silica, 0-20% ethyl acetate/hexanes) to afford the title compound. LRMS (APCI) calc'd for (C11H16IN2O4S) [M+H]+, 399.0; found 398.9.

reactant | ethyl 5-[(tert-butoxycarbonyl)amino]-1,3-thiazole-4-carboxylate | 36.7 mmol, 10 g | C(C)(C)(C)OC(=O)NC1=C(N=CS1)C(=O)OCC | C11H16N2O4S
reactant | N-iodosuccinimide | 88.9 mmol, 20 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | N-iodosuccinimide | 1.2 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 122 ml | CN(C)C=O | C3H7NO
product | Ethyl 5-[(tert-butoxycarbonyl)amino]-2-iodo-1,3-thiazole-4-carboxylate | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)I)C(=O)OCC | C11H15IN2O4S
